USH0001992H1
To a 0° C. suspension of 4-(4-bromophenoxy)benzene sulfonyl chloride (1.10 g, 3.16 mmol) in 20 mL of dichloromethane was added a solution of diisoproylethylamine (1.10 mL, 6.3 mmol) and D-valine tert-butyl ester (660 mg, 3.8 mol) in 11 mL of dichloromethane. The ice bath was removed, and the reaction was stirred for 3 h, diluted with 30 mL dichloromethane, and 30 ml of 1 M HCl was added. The layers were separated, and the aqueous layer was washed with 30 mL of dichloromethane. The combined dichloromethane fractions were washed with brine, dried over MgSO4, and concentrated. The residue was chromatographed on silica, eluting with 25% ethyl acetate in hexane, to give 980 mg (64%) of N-[4-(4-bromophenoxy)benzenesulfonyl]-D-valine t-butyl ester as a white foam.

reactant | 4-(4-bromophenoxy)benzene sulfonyl chloride | 3.16 mmol, 1.10 g | BrC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)Cl)C=C1 | C12H8BrClO3S
reactant | diisoproylethylamine | 6.3 mmol, 1.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | D-valine tert-butyl ester | 3.8 mol, 660 mg | C(C)(C)(C)OC([C@H](N)C(C)C)=O | C9H19NO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
product | N-[4-(4-bromophenoxy)benzenesulfonyl]-D-valine t-butyl ester | 980 mg, 64% | C(C)(C)(C)OC([C@H](NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Br)C(C)C)=O | C21H26BrNO5S
